.title KiCad schematic
.include "MPS.lib"
V2 Net-_V2-Pad1_ 0 dc(12)
V3 E22-PG 0 pulse(0 3 2n 2n 2n 60ms 180ms)
V4 E21-PG 0 pulse(0 3 90ms 2n 2n 60ms 180ms)
VBOGUS2 Net-_V2-Pad1_ E24-12V dc(0)
R15 Net-_D6-Pad1_ E22-PG 3k
Q3 FF1 Net-_D6-Pad2_ 0 BCY58
R16 FF2 E22-PG 3k
D6 Net-_D6-Pad1_ Net-_D6-Pad2_ DIODE
R28 Net-_C1-Pad1_ Net-_D6-Pad2_ 300
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ 2.2n
D7 Net-_D7-Pad1_ Net-_C1-Pad2_ DIODE
R18 Net-_D7-Pad1_ E21-PG 3k
R17 FF1 E21-PG 3k
R32 0 Net-_D6-Pad2_ 180k
R37 FF1 E24-12V 1k
Q4 FF2 Net-_C1-Pad2_ 0 BCY58
R33 0 Net-_C1-Pad2_ 180k
R38 FF2 E24-12V 1k
R43 Net-_Q7-Pad2_ FF1 10k
Q7 Net-_Q7-Pad1_ Net-_Q7-Pad2_ 0 BCY58
R47 Net-_Q7-Pad1_ E24-12V 2k
R49 INT-7 Net-_Q7-Pad1_ 5k1
R52 INT-7 Net-_Q9-Pad1_ 5k1
R51 Net-_Q9-Pad1_ E24-12V 2k
Q9 Net-_Q9-Pad1_ Net-_Q9-Pad2_ 0 BCY58
R44 Net-_Q9-Pad2_ FF2 10k
R19 Net-_D8-Pad1_ E14-PG 3k
Q5 FF3 Net-_D8-Pad2_ 0 BCY58
R20 FF4 E14-PG 3k
D8 Net-_D8-Pad1_ Net-_D8-Pad2_ DIODE
R29 Net-_C2-Pad1_ Net-_D8-Pad2_ 300
C2 Net-_C2-Pad1_ Net-_C2-Pad2_ 2.2n
R22 Net-_D9-Pad1_ E13-PG 3k
R21 FF3 E13-PG 3k
R34 0 Net-_D8-Pad2_ 180k
R39 FF3 E24-12V 1k
Q6 FF4 Net-_C2-Pad2_ 0 BCY58
R35 0 Net-_C2-Pad2_ 180k
R40 FF4 E24-12V 1k
R45 Net-_Q9-Pad2_ FF3 10k
R46 Net-_Q7-Pad2_ FF4 10k
V5 E14-PG 0 pulse(0 3 45ms 2n 2n 60ms 180ms)
V6 E13-PG 0 pulse(0 3 135ms 2n 2n 60ms 180ms)
R48 AUX12-TGL E24-12V 1k
Q8 AUX12-TGL INT-7 0 BCY58
Q10 AUX11-TGL Net-_Q10-Pad2_ 0 BCY58
R50 Net-_Q10-Pad2_ AUX12-TGL 10k
R53 AUX11-TGL E24-12V 1k
R54 AUX11-TGL Net-_C8-Pad2_ 1k3
R55 Net-_R55-Pad1_ Net-_C8-Pad2_ 27k
R56 Net-_R55-Pad1_ Net-_C7-Pad2_ 130k
C8 Net-_C8-Pad1_ Net-_C8-Pad2_ 33n
R57 Net-_C8-Pad1_ Net-_R57-Pad2_ 20k
R58 Net-_R57-Pad2_ E24-12V 36k
C7 0 Net-_C7-Pad2_ 470n
R59 0 Net-_R57-Pad2_ 36k
D13 Net-_C7-Pad2_ Net-_C8-Pad2_ DIODE
D9 Net-_D9-Pad1_ Net-_C2-Pad2_ DIODE
C4 AUX12-TGL Net-_C4-Pad2_ 6.8n
C5 AUX11-TGL Net-_C5-Pad2_ 6.8n
R30 Net-_C4-Pad2_ AUX1-10V 130k
R31 0 Net-_C4-Pad2_ 68k
D4 EDGES Net-_C4-Pad2_ DIODE
R26 0 Net-_C5-Pad2_ 68k
R25 Net-_C5-Pad2_ AUX1-10V 130k
D5 EDGES Net-_C5-Pad2_ DIODE
R23 EDGES AUX1-10V 100k
VBOGUS1 Net-_V1-Pad1_ AUX1-10V dc(0)
V1 Net-_V1-Pad1_ 0 dc(10)
D15 EDGES E8-MPS DIODE
D16 EDGES Net-_D16-Pad2_ DIODE
Q11 AUX10-SP Net-_D16-Pad2_ 0 BCY58
R65 0 Net-_D16-Pad2_ 180k
R68 Net-_C9-Pad2_ Net-_D16-Pad2_ 300
C9 Net-_C9-Pad1_ Net-_C9-Pad2_ 1.0n
R67 Net-_C9-Pad1_ AUX10-SP 2k4
Q12 BASE_PULSE Net-_C9-Pad1_ 0 BCY58
R66 AUX10-SP AUX1-10V 2k
R69 BASE_PULSE AUX1-10V 1k
R64 E15-MPS AUX1-10V 510
R63 E15-MPS Net-_D14-Pad2_ 2k2
D14 Net-_D14-Pad1_ Net-_D14-Pad2_ DIODE
R62 Net-_D14-Pad1_ AUX1-10V 1k2
R61 Net-_D14-Pad1_ E1-T1 240
R60 0 E1-T1 200
V7 E10-MPS 0 dc(4.0)
XTR1 BASE_PULSE E15-MPS E8-MPS E10-MPS mps vac=15
.model DIODE D 
.model BCY58 npn 
.model BSX95 npn 
.model AUY21 pnp 
.tran 0.05ms 400ms 100m 
.control 
run 
rusage 
set filetype=ascii 
set color0=white 
set xbrushwidth=5 
* pulse generator 0.05ms 400ms 100ms 
plot "V(E13-PG)" "V(E22-PG)"+4 "V(E14-PG)"+8 "V(E21-PG)"+12 
* flip-flip and NOR output 0.05ms 400ms 100ms 
*plot "V(INT-7)"+0 "V(E13-PG)"+2 "V(E22-PG)"+6 "V(E14-PG)"+10 "V(E21-PG)"+14 
* toggle generation 0.05ms 400ms 100ms 
*plot "V(AUX11-TGL)"+0 "V(AUX12-TGL)"+13 "V(INT-7)"+26 
* edge generation 0.05ms 400ms 100ms 
*plot "V(EDGES)"+0 "V(AUX11-TGL)"+6 "V(AUX12-TGL)"+20 
* edge generation close up 0.05ms 92ms 89ms 
*plot "V(EDGES)"+0 "V(AUX11-TGL)"+6 "V(AUX12-TGL)"+20 
* base pulse generation 0.05ms 92ms 89ms 
*write "C:\Users\andy\OneDrive\Documents\MPS Tune-o-Matic\trunk\Simulation\Pressure Loop\PressureLoop.out" "V(BASE_PULSE)" "V(INT-7)" 
*plot "V(EDGES)"+0 "V(E15-MPS)"+0 "V(E10-MPS)"+0 "V(BASE_PULSE)"+12 "V(E8-MPS)"+35 
*plot "V(EDGES)"+0 "V(E15-MPS)"+0 "V(E10-MPS)"+0 "V(BASE_PULSE)"+0 "V(E8-MPS)"+0 
meas tran high trig v(E13-PG) val=1.5 rise=1 targ v(E13-PG) val=1.5 fall=1 
meas tran low trig v(E13-PG) val=1.5 fall=1 targ v(E13-PG) val=1.5 rise=2 
let period = low+high 
let dutycycle = high/period 
let circle = 360 
let dwellsci = circle * dutycycle 
echo dwell = $&dwellsci 
.endc 
.end
